US07932400B2
In a 30 ml glass vessel equipped with a stirrer, thermometer and a reflux condenser were charged 1.0 g (6.8 mmol) of 4,5-dihydroxy-1,3-dimethyl-2-imidazolidinone synthesized in the same manner as in Reference example A1, 2 ml of water and 0.18 g (1.8 mmol) of 98% sulfuric acid, and the mixture were reacted at 95 to 100° C. for 6 hours. After completion of the reaction, the reaction mixture was analyzed by high-performance liquid chromatography (quantitative value by refractive index detector), then, 766 mg (Reaction yield; 87%) of 1,3-dimethylimidazolidin-2,4-dione was formed.

reactant | 4,5-dihydroxy-1,3-dimethyl-2-imidazolidinone | 6.8 mmol, 1.0 g | OC1N(C(N(C1O)C)=O)C | C5H10N2O3
reactant | sulfuric acid | 1.8 mmol, 0.18 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 2 ml | O | H2O
product | 1,3-dimethylimidazolidin-2,4-dione | 766 mg, yield; 87% | CN1C(N(C(C1)=O)C)=O | C5H8N2O2
